US09290451B2
b) 5-(3,3-Difluoro-azetidin-1-yl)-6-(2-methoxy-ethoxy)-pyridine-2-carboxylic acid
A solution of 5-(3,3-difluoroazetidin-1-yl)-6-(2-methoxyethoxy)-pyridine-2-carboxylic acid methyl ester (0.3 g, 1 mmol) and lithium hydroxide monohydrate (0.25 g, 6 mmol) in THF/H2O (30 mL) was stirred at room temperature for 3 h. After removal of the organic solvent, the aqueous phase was extracted with ethyl acetate (20 mL) and then acidified with 6 N hydrochloric acid to pH 2 to form a precipitate which was collected by filtration and dried under reduced pressure to give the target compound (0.24 g, 84%) as off-white solid which was used directly in the next step without further purification; MS (EI): m/e=289.1 [M+H]+.

reactant | 5-(3,3-difluoroazetidin-1-yl)-6-(2-methoxyethoxy)-pyridine-2-carboxylic acid methyl ester | 1 mmol, 0.3 g | COC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCCOC | C13H16F2N2O4
reactant | lithium hydroxide monohydrate | 6 mmol, 0.25 g | O.[OH-].[Li+]
solvent | THF H2O | 30 mL | C1CCOC1.O
product | 5-(3,3-Difluoro-azetidin-1-yl)-6-(2-methoxy-ethoxy)-pyridine-2-carboxylic acid | 0.24 g, 84% | FC1(CN(C1)C=1C=CC(=NC1OCCOC)C(=O)O)F | C12H14F2N2O4
